US04638060
3[(t-Butoxycarbonyl)amino]-2-oxo-1-(sulfooxy)-1-azaspiro[3.4]octane, monopotassium salt (280 mg, 0.75 mmoles) was covered with 2 ml of dry dichloromethane, 0.8 ml of anisole was added, and the mixture cooled to -10° C. Trifluoroacetic acid (3 ml) was added, and the solution was stirred at -10 to -5° C. for 1.5 hours. After 0.75 hours a solid formed, becoming quite substantial by 1.5 hours. The volatiles were evaporated in vacuo and the solid residue triturated with ether to give 3-amino-2-oxo-1-(sulfooxy)-1-azaspiro[3.4]octane.

reactant | 3[(t-Butoxycarbonyl)amino]-2-oxo-1-(sulfooxy)-1-azaspiro[3.4]octane | C(C)(C)(C)OC(=O)NC1C(N(C12CCCC2)OS(=O)(=O)O)=O | C12H20N2O7S
reactant | monopotassium | 0.75 mmoles, 280 mg | [K] | K
reactant | anisole | 0.8 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-amino-2-oxo-1-(sulfooxy)-1-azaspiro[3.4]octane | NC1C(N(C12CCCC2)OS(=O)(=O)O)=O | C7H12N2O5S
